Transistor-level TIA private fixture
.lib "/opt/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_tt
.lib "/opt/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ
.options method=gear maxord=2 reltol=1e-3 abstol=1e-12 vntol=1e-6 itl4=500 rshunt=1e12
R_TB_BUF_LOAD outp outn 100
* IHP SG13G2 25-Gbaud differential optical-receiver front end
*
* Public nodes: vcc mc mgc oa inp inn finalp finaln gc agc
*               bufinp bufinn outp outn pkdinp pkdinn detp detn
*

* =====================================================================
* Bias
* =====================================================================
Rb_qb1 vcc qb 1.581k
Rb_qb2 qb 0 1.500k
C_qb qb 0 200p

Rb_cas1 vcc qcas 0.780k
Rb_cas2 qcas 0 1.850k
C_cas qcas 0 100p

* =====================================================================
* Manual / automatic CMOS analog mux
* MOSFET terminals: d g s b
* =====================================================================
Xinv_n mcb mc 0 0 sg13_hv_nmos w=8.0u l=0.45u ng=1 m=1
Xinv_p mcb mc vcc vcc sg13_hv_pmos w=16.0u l=0.40u ng=1 m=1
Xsw_mn gc mcb mgc 0 sg13_hv_nmos w=10.0u l=0.45u ng=1 m=16
Xsw_mp gc mc  mgc vcc sg13_hv_pmos w=10.0u l=0.40u ng=1 m=16
Xsw_an gc mc  agc 0 sg13_hv_nmos w=10.0u l=0.45u ng=1 m=16
Xsw_ap gc mcb agc vcc sg13_hv_pmos w=10.0u l=0.40u ng=1 m=16
C_gc gc 0 15f

* =====================================================================
* TIA +  cascode common-base + MOS tail + DCOC sink
* =====================================================================
Xq_cas_p ctia_p qcas mid_p 0 npn13G2 Nx=6
Xq_cb_p  mid_p  qb   inp   0 npn13G2 Nx=6
R_tia_p vcc lp_p 58
L_tia_p lp_p ctia_p 0.34n
C_tia_p ctia_p 0 72f
Xmt_p inp oa 0 0 sg13_hv_nmos w=10.0u l=0.45u ng=1 m=6
Xmdc_p inp gdc_p 0 0 sg13_hv_nmos w=10.0u l=0.45u ng=1 m=16

Xq_ef_p vcc ctia_p tia_p 0 npn13G2 Nx=4
R_ef_p tia_p 0 1.600k

* =====================================================================
* TIA -
* =====================================================================
Xq_cas_n ctia_n qcas mid_n 0 npn13G2 Nx=6
Xq_cb_n  mid_n  qb   inn   0 npn13G2 Nx=6
R_tia_n vcc lp_n 58
L_tia_n lp_n ctia_n 0.34n
C_tia_n ctia_n 0 72f
Xmt_n inn oa 0 0 sg13_hv_nmos w=10.0u l=0.45u ng=1 m=6
Xmdc_n inn gdc_n 0 0 sg13_hv_nmos w=10.0u l=0.45u ng=1 m=16

Xq_ef_n vcc ctia_n tia_n 0 npn13G2 Nx=4
R_ef_n tia_n 0 1.600k

* =====================================================================
* Output-referred DCOC
* High-gain current-mirror OTA + PMOS CS.
* Ipd into inp lowers finalp/fp; OTA mid_dp falls; PMOS CS raises gdc_p.
* MOSFET terminals: d g s b
* =====================================================================
R_fp1 finalp fp 50.0k
R_fp2 fp 0 150.0k
C_fp fp 0 100n
R_fn1 finaln fn 50.0k
R_fn2 fn 0 150.0k
C_fn fn 0 100n

Xota_p_d dcp fp tdc_p 0 sg13_hv_nmos w=10.0u l=4.00u ng=1 m=2
Xota_p_o mid_dp fn tdc_p 0 sg13_hv_nmos w=10.0u l=4.00u ng=1 m=2
Xota_p_t tdc_p oa 0 0 sg13_hv_nmos w=4.0u l=4.00u ng=1 m=1
Xota_p_mp dcp dcp vcc vcc sg13_hv_pmos w=8.0u l=4.00u ng=1 m=1
Xota_p_mn mid_dp dcp vcc vcc sg13_hv_pmos w=8.0u l=4.00u ng=1 m=1
Xcs_p gdc_p mid_dp vcc vcc sg13_hv_pmos w=2.0u l=2.00u ng=1 m=1
Rcs_p gdc_p 0 80.0k
C_gdc_p gdc_p 0 80n

Xota_n_d dcn fn tdc_n 0 sg13_hv_nmos w=10.0u l=4.00u ng=1 m=2
Xota_n_o mid_dn fp tdc_n 0 sg13_hv_nmos w=10.0u l=4.00u ng=1 m=2
Xota_n_t tdc_n oa 0 0 sg13_hv_nmos w=4.0u l=4.00u ng=1 m=1
Xota_n_mp dcn dcn vcc vcc sg13_hv_pmos w=8.0u l=4.00u ng=1 m=1
Xota_n_mn mid_dn dcn vcc vcc sg13_hv_pmos w=8.0u l=4.00u ng=1 m=1
Xcs_n gdc_n mid_dn vcc vcc sg13_hv_pmos w=2.0u l=2.00u ng=1 m=1
Rcs_n gdc_n 0 80.0k
C_gdc_n gdc_n 0 80n

* =====================================================================
* VGA 1  (oa tail + gc-steered extra tail)
* =====================================================================
Xq_v1p v1p tia_p e1p 0 npn13G2 Nx=6
Xq_v1n v1n tia_n e1n 0 npn13G2 Nx=6
R_d1p e1p et1 6
R_d1n e1n et1 6
R_l1p vcc l1p 118
L_l1p l1p v1p 0.28n
C_v1p v1p 0 16f
R_l1n vcc l1n 118
L_l1n l1n v1n 0.28n
C_v1n v1n 0 16f
Xmt_v1 et1 oa 0 0 sg13_hv_nmos w=10.0u l=0.45u ng=1 m=4
Xmg_v1 et1 gc 0 0 sg13_hv_nmos w=10.0u l=0.45u ng=1 m=9
Xq_e1p vcc v1p vg1p 0 npn13G2 Nx=4
Xq_e1n vcc v1n vg1n 0 npn13G2 Nx=4
R_e1p vg1p 0 1.500k
R_e1n vg1n 0 1.500k

* =====================================================================
* VGA 2
* =====================================================================
Xq_v2p v2p vg1p e2p 0 npn13G2 Nx=8
Xq_v2n v2n vg1n e2n 0 npn13G2 Nx=8
R_d2p e2p et2 6
R_d2n e2n et2 6
R_l2p vcc l2p 78
L_l2p l2p v2p 0.24n
C_v2p v2p 0 14f
R_l2n vcc l2n 78
L_l2n l2n v2n 0.24n
C_v2n v2n 0 14f
Xmt_v2 et2 oa 0 0 sg13_hv_nmos w=10.0u l=0.45u ng=1 m=5
Xmg_v2 et2 gc 0 0 sg13_hv_nmos w=10.0u l=0.45u ng=1 m=7
Xq_e2p vcc v2p bufinp 0 npn13G2 Nx=6
Xq_e2n vcc v2n bufinn 0 npn13G2 Nx=6
R_e2p bufinp 0 1.200k
R_e2n bufinn 0 1.200k

* =====================================================================
* 50-ohm output buffer
* =====================================================================
Xq_bp outp bufinp ebp 0 npn13G2 Nx=8
Xq_bn outn bufinn ebn 0 npn13G2 Nx=8
R_dbp ebp ebt 11
R_dbn ebn ebt 11
R_cp vcc outp 50
R_cn vcc outn 50
Xmt_buf ebt oa 0 0 sg13_hv_nmos w=10.0u l=0.45u ng=1 m=36
C_outp outp 0 20f
C_outn outn 0 20f
R_xf outp finalp 0.001
R_xn outn finaln 0.001

* =====================================================================
* Peak detector (rectifier + replica + DA)
* Replica bias matches the 2.092 V PD-test common mode.
* =====================================================================
R_pkb1 vcc pkdcm 1.408k
R_pkb2 pkdcm 0 2.400k
C_pkdcm pkdcm 0 20p
R_pkin_p pkdinp pkdcm 8.000k
R_pkin_n pkdinn pkdcm 8.000k
C_ac_p bufinp pkdinp 0.02f
C_ac_n bufinn pkdinn 0.02f

Xq_pdp vcc pkdinp pke 0 npn13G2 Nx=4
Xq_pdn vcc pkdinn pke 0 npn13G2 Nx=4
R_pke pke 0 300
C_pke pke 0 0.8p

Xq_rpp vcc pkdcm pker 0 npn13G2 Nx=4
Xq_rpn vcc pkdcm pker 0 npn13G2 Nx=4
R_pker pker 0 300
C_pker pker 0 0.8p

Xq_da_p detp pke eda 0 npn13G2 Nx=4
Xq_da_n detn pker eda 0 npn13G2 Nx=4
R_da_p vcc detp 2.400k
R_da_n vcc detn 2.400k
R_da_e eda edak 140
Xmt_da edak oa 0 0 sg13_hv_nmos w=10.0u l=0.45u ng=1 m=4
C_detp detp 0 30p
C_detn detn 0 30p

* =====================================================================
* AGC amplifier (target 15.03 V/V)
* =====================================================================
Xq_ag_p agc_p detp eag 0 npn13G2 Nx=4
Xq_ag_n agc_n detn eag 0 npn13G2 Nx=4
R_ag_p vcc agc_p 2.400k
R_ag_n vcc agc_n 2.400k
R_ag_e eag eagk 140
Xmt_ag eagk oa 0 0 sg13_hv_nmos w=10.0u l=0.45u ng=1 m=4
Xq_ag_ef vcc agc_n agc_ef 0 npn13G2 Nx=2
R_ag_ef agc_ef 0 6.000k
R_agc_iso agc_ef agc 200
C_agc agc 0 30p

V_TB_VCC vcc 0 3.3
V_TB_MC mc 0 0
V_TB_MGC mgc 0 1.35
V_TB_OA oa 0 1.2
I_TB_P 0 inp DC 0 AC 1
I_TB_N inn 0 DC 0 AC 1
.control
set wr_vecnames
set wr_singlescale
ac dec 100 1Meg 100G
wrdata ac.dat v(finalp,finaln)
quit
.endc
.end
